US08633212B2
To a solution of tert-butyl 3-(4-bromo-2-iodobenzyl)-3-cyanoazetidine-1-carboxylate (4.2876 g, 8.99 mmol) in THF (120 mL) was added n-BuLi (2.5 Min hexane, 3.8 mL, 9.5 mmol) at −78° C. dropwise over 10 min under nitrogen. After 1 h, the reaction mixture was quenched with saturated NH4Cl, diluted with CH2Cl2, and dried over Na2SO4. After the solvent was evaporated under reduced pressure, the residue was purified by chromatography on silica gel eluted with hexanes/ethyl acetate to afford 1.7020 g (54%) of tert-butyl 6′-bromo-1′-oxo-1′,3′-dihydrospiro[azetidine-3,2′-indene]-1-carboxylate as a solid. LC-MS tR=1.90 min in 3 min chromatography, m/z 352, 354 (MH+), 337, 339 (MH+-15), 296, 298 (MH+-56); 1H NMR (400 MHz, CDCl3) δ 7.91 (m, 1H), 7.74-7.71 (m, 1H), 7.35 (d, J=7.9 Hz, 1H), 4.23 (d, J=8.2 Hz, 2H), 3.88 (d, J=8.2 Hz, 2H), 3.40 (s, 2H), 1.46 (s, 9H); 13C NMR (100 MHz, CDCl3) δ 204.38, 156.03, 150.44, 138.17, 137.24, 127.88, 127.29, 122.19, 80.05, 57.88, 44.70, 39.67, 28.35.

reactant | tert-butyl 3-(4-bromo-2-iodobenzyl)-3-cyanoazetidine-1-carboxylate | 8.99 mmol, 4.2876 g | BrC1=CC(=C(CC2(CN(C2)C(=O)OC(C)(C)C)C#N)C=C1)I | C16H18BrIN2O2
reactant | n-BuLi | 9.5 mmol, 3.8 mL | [Li]CCCC
reactant | THF | 120 mL | C1CCOC1 | C4H8O
product | tert-butyl 6′-bromo-1′-oxo-1′,3′-dihydrospiro[azetidine-3,2′-indene]-1-carboxylate | 1.7020 g, 54% | BrC1=CC=C2CC3(C(C2=C1)=O)CN(C3)C(=O)OC(C)(C)C | C16H18BrNO3
